US07713979B2
4-(4-{1-[cis-4-(tert-Butyl-dimethyl-silanyloxy)-cyclohexyl]-2-oxo-pyrrolidin-3-ylmethyl}-3,5-dichloro-phenoxy)-benzoic acid methyl ester
Combine 0.5 g (1 mmol) of 1-[cis-4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyl]-3-(2,6-dichloro-4-hydroxy-benzyl)-pyrrolidin-2-one (Preparation 72) 0.7 g (2 mmol) Cs2CO3 and 0.49 g (3 mmol) p-fluoromethylbenzoate in 10 mL dry DMF and heat at 100° C. for 4 hours. Dilute the mixture with 25 mL H2O and 50 mL EtOAc. Separate the layers and extract the aqueous with 50 mL EtOAc. Combine the organic layers, wash with brine, dry over MgSO4 and concentrate under vacuum. Purify via chromatography using 30% EtOAc in hexanes to recover 0.47 g of an oil.

reactant | 1-[cis-4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyl]-3-(2,6-dichloro-4-hydroxy-benzyl)-pyrrolidin-2-one | 1 mmol, 0.5 g | C(C)(C)(C)[Si](O[C@H]1CC[C@H](CC1)N1C(C(CC1)CC1=C(C=C(C=C1Cl)O)Cl)=O)(C)C | C23H35Cl2NO3Si
reactant | Cs2CO3 | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | p-fluoromethylbenzoate | 3 mmol, 0.49 g | FCC1=CC=C(C(=O)[O-])C=C1
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | H2O | 25 mL | O | H2O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 4-(4-{1-[cis-4-(tert-Butyl-dimethyl-silanyloxy)-cyclohexyl]-2-oxo-pyrrolidin-3-ylmethyl}-3,5-dichloro-phenoxy)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)OC1=CC(=C(C(=C1)Cl)CC1C(N(CC1)[C@@H]1CC[C@@H](CC1)O[Si](C)(C)C(C)(C)C)=O)Cl)=O | C31H41Cl2NO5Si
